US05053509
A suspension of 2-ethoxy-6,7,8-trifluoro-4-hydroxyquinoline (69.5 g) is phosphoryl chloride (430 cc) is heated with stirring to a temperature in the region of 100° C. for 30 minutes. The solution obtained is concentrated under reduced pressure (20 kPa) at approximately 60° C. to a volume of 100 cc. The residue is taken up with ethyl acetate (750 cc); the solution obtained is poured with stirring in the course of 10 minutes into a mixture of water (400 cc) and ice (200 g), and left stirring under these conditions for 30 minutes. After separation of the organic extract, the aqueous phase is again extracted with ethyl acetate (2×250 cc). The combined organic extracts are washed with water (3×250 cc), dried over magnesium sulphate and concentrated under reduced pressure (20 kPa) at approximately 40° C. The oily residue obtained is taken up with petroleum ether (40-60) (370 cc). After filtration through diatomaceous silica, the filtrate is concentrated to dryness under reduced pressure (20 kPa) at approximately 30° C. 4-Chloro-2-ethoxy-6,7,8-trifluoroquinoline (70.7 g) is obtained in the form of a beige solid, m.p. 45° C., which is used without further purification for the subsequent steps.

reactant | 2-ethoxy-6,7,8-trifluoro-4-hydroxyquinoline | 69.5 g | C(C)OC1=NC2=C(C(=C(C=C2C(=C1)O)F)F)F | C11H8F3NO2
reactant | phosphoryl chloride | 430 cc | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 400 cc | O | H2O
product | 4-Chloro-2-ethoxy-6,7,8-trifluoroquinoline | 70.7 g | ClC1=CC(=NC2=C(C(=C(C=C12)F)F)F)OCC | C11H7ClF3NO
